US08222417B2
To a solution of 2-fluoroaniline (2.0 g) in acetonitrile (20 ml), acrylic acid (1.4 ml) was added and heated under reflux for 21 hours. After the reaction mixture was concentrated, the residue was diluted with 10% aqueous sodium hydroxide and washed with chloroform. The aqueous layer was adjusted to pH 3.3 by addition of 12M aqueous hydrochloric acid, and the precipitated crystal was collected by filtration and dried to give N-(2-fluorophenyl)-β-alanine (1.35 g) as a light-yellow solid. N-(2-Fluorophenyl)-(3-alanine thus obtained (1.30 g) was added to polyphosphoric acid (20g) heated at 130° C., followed by stirring for 2.5 hours. After addition of ice-cold water, the reaction mixture was adjusted to pH 5 with 8M aqueous sodium hydroxide. The precipitated crystal was collected by filtration to give 8-fluoro-2,3-dihydroquinolin-4(1H)-one (770 mg) as a yellow solid. To a solution of 8-fluoro-2,3-dihydroquinolin-4(1H)-one thus obtained (700 mg) in trifluoroacetic acid (20 ml), triethylsilane (4.1 ml) was added and stirred at room temperature for 2 hours. Triethylsilane (2.1 ml) was further added and stirred overnight at room temperature. After the reaction mixture was concentrated, the residue was diluted with 1M aqueous sodium hydroxide and extracted with diethyl ether. To the organic layer, 6M aqueous hydrochloric acid was added and stirred to separate the aqueous layer. The aqueous layer was alkalized with 8M aqueous sodium hydroxide and extracted with chloroform. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=20:1) to give the titled compound, i.e., 8-fluoro-1,2,3,4-tetrahydroquinoline (427 mg) as a light-yellow oil.

reactant | 2-fluoroaniline | 2.0 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | acrylic acid | 1.4 ml | C(C=C)(=O)O | C3H4O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-(2-fluorophenyl)-β-alanine | 1.35 g | FC1=C(C=CC=C1)NCCC(=O)O | C9H10FNO2
